data/polar.json
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:2]1([Cl:13])=[C:27]([Cl:10])[C:28]([Cl:21])=[C:7]([Cl:20])[C:26]([Cl:3])([Cl:4])[C:11]1=[O:15].[CH:1]([C:12](=[O:14])[c:17]1[cH:5][cH:23][c:16]([N:22]([CH3:18])[CH3:19])[cH:24][cH:6]1)=[S:25]([CH3:8])[CH3:9]>>[CH:1]([Cl:3])([C:12](=[O:14])[c:17]1[cH:5][cH:23][c:16]([N:22]([CH3:18])[CH3:19])[cH:24][cH:6]1)[S+:25]([CH3:8])[CH3:9].[c:2]1([Cl:13])[c:11]([O-:15])[c:26]([Cl:4])[c:7]([Cl:20])[c:28]([Cl:21])[c:27]1[Cl:10]", "epd": [["Pi-/Sigma+", [1, 25], [1, 3]], ["Sigma-/Pi+", [3, 26], [26, 11]], ["Pi-/LP+", [11, 15], [15]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:3][O:8][c:10]1[cH:32][cH:16][c:15]([CH:27]=[C:24]2[CH:28]=[C:11]([Br:20])[C:14](=[O:18])[C:12]([Br:21])=[CH:29]2)[cH:17][cH:33]1.[CH:1]1([C:4](=[O:19])[O:31][CH3:6])[CH2:7][CH2:25][CH2:22][N:30]1[C:23]1=[CH:9][CH2:2][CH2:26][CH2:13][CH2:5]1>>[CH:1]1([C:4](=[O:19])[O:31][CH3:6])[CH2:7][CH2:25][CH2:22][N+:30]1=[C:23]1[CH2:5][CH2:13][CH2:26][CH2:2][CH:9]1[CH:27]([c:15]1[cH:16][cH:32][c:10]([O:8][CH3:3])[cH:33][cH:17]1)[c:24]1[cH:28][c:11]([Br:20])[c:14]([O-:18])[c:12]([Br:21])[cH:29]1", "epd": [["LP-/Pi+", [30], [23, 30]], ["Pi-/Sigma+", [9, 23], [9, 27]], ["Pi-/Pi+", [27, 24], [24, 28]], ["Pi-/Pi+", [28, 11], [11, 14]], ["Pi-/LP+", [14, 18], [18]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[S:1]([c:5]1[cH:23][cH:14][cH:10][cH:15][cH:24]1)([O-:6])=[O:19].[cH:2]1[c:7]([N+:16](=[O:11])[O-:21])[cH:3][c:8]([N+:17](=[O:12])[O-:20])[cH:4][c:9]1[N+:18](=[O:13])[O-:22]>>[S+:1]([CH:2]1[C:7](=[N+:16]([O-:11])[O-:21])[CH:3]=[C:8]([N+:17](=[O:12])[O-:20])[CH:4]=[C:9]1[N+:18](=[O:13])[O-:22])([c:5]1[cH:23][cH:14][cH:10][cH:15][cH:24]1)([O-:6])=[O:19]", "epd": [["LP-/Sigma+", [1], [1, 2]], ["Pi-/Pi+", [2, 7], [7, 16]], ["Pi-/LP+", [16, 11], [11]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:15])=[C:36]([Cl:13])[C:37]([Cl:23])=[C:6]([Cl:22])[C:35]([Cl:4])([Cl:5])[C:14]1=[O:18].[N:2]1([c:7]2[c:30]([CH3:9])[cH:26][c:19]([CH3:16])[cH:29][c:33]2[CH3:12])[CH:25]=[CH:24][N:3]([c:8]2[c:31]([CH3:10])[cH:27][c:20]([CH3:17])[cH:28][c:32]2[CH3:11])[C:34]1=[CH2:21]>>[c:1]1([Cl:15])[c:14]([O-:18])[c:35]([Cl:5])[c:6]([Cl:22])[c:37]([Cl:23])[c:36]1[Cl:13].[n+:2]1(-[c:7]2[c:30]([CH3:9])[cH:26][c:19]([CH3:16])[cH:29][c:33]2[CH3:12])[cH:25][cH:24][n:3](-[c:8]2[c:31]([CH3:10])[cH:27][c:20]([CH3:17])[cH:28][c:32]2[CH3:11])[c:34]1[CH2:21][Cl:4]", "epd": [["LP-/Pi+", [2], [34, 2]], ["Pi-/Sigma+", [21, 34], [21, 4]], ["Sigma-/Pi+", [4, 35], [35, 14]], ["Pi-/LP+", [14, 18], [18]]]}
{"reaction_name": "Reductive desulfonylation", "rsmi": "[H+:5].[H-:11].[cH:1]1[cH:3][cH:7][cH:4][cH:2][c:10]1[S:6](=[O:8])(=[O:9])[CH3:12]>>[H:11][CH3:12].[cH:1]1[cH:3][cH:7][cH:4][cH:2][c:10]1[S:6]([H:5])(=[O:8])=[O:9]", "epd": [["Sigma-/Sigma+", [6, 12], [5, 6]], ["LP-/Sigma+", [11], [11, 12]]]}
{"reaction_name": "Cationic polyene cyclization", "rsmi": "[CH2:1]([CH2:3][CH:8]=[CH2:5])[CH:7]=[CH:2][CH2:4][CH2+:6]>>[CH2:1]1[CH2:3][CH+:8][CH2:5][CH2:6][CH2:4][CH:2]=[CH:7]1", "epd": [["Pi-/Sigma+", [5, 8], [5, 6]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:5][CH:16]([CH3:6])[N+:22]1=[N:28][N:21]([CH:11]([CH3:29])[CH3:30])[C:31](=[CH2:20])[C-:13]1[C:15]([CH3:34])([CH3:35])[CH3:36].[O:1]=[C:26]1[N:7]([CH3:23])[C:25](=[O:9])[N:8]([CH3:24])[C:27](=[O:2])[C:17]1=[CH:19][c:10]1[cH:32][cH:3][c:18]([O:14][CH3:12])[cH:4][cH:33]1>>[O-:1][c:26]1[n:7]([CH3:23])[c:25](=[O:9])[n:8]([CH3:24])[c:27](=[O:2])[c:17]1[CH:19]([c:10]1[cH:32][cH:3][c:18]([O:14][CH3:12])[cH:4][cH:33]1)[CH2:20][c:31]1[c:13]([C:15]([CH3:34])([CH3:35])[CH3:36])[n+:22]([CH:16]([CH3:5])[CH3:6])[n:28][n:21]1[CH:11]([CH3:29])[CH3:30]", "epd": [["LP-/Pi+", [13], [31, 13]], ["Pi-/Sigma+", [20, 31], [20, 19]], ["Pi-/Pi+", [19, 17], [17, 26]], ["Pi-/LP+", [26, 1], [1]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:24])=[C:37]([Cl:21])[C:38]([Cl:33])=[C:18]([Cl:32])[C:36]([Cl:14])([Cl:15])[C:22]1=[O:25].[c:2]1([P:17]([c:3]2[cH:10][cH:28][cH:6][cH:29][cH:11]2)([c:4]2[cH:12][cH:30][cH:7][cH:31][cH:13]2)=[CH:34][C:23]([O:19][CH2:16][CH3:35])=[O:20])[cH:8][cH:26][cH:5][cH:27][cH:9]1>>[c:1]1([Cl:24])[c:22]([O-:25])[c:36]([Cl:15])[c:18]([Cl:32])[c:38]([Cl:33])[c:37]1[Cl:21].[c:2]1([P+:17]([c:3]2[cH:10][cH:28][cH:6][cH:29][cH:11]2)([c:4]2[cH:12][cH:30][cH:7][cH:31][cH:13]2)[CH:34]([Cl:14])[C:23]([O:19][CH2:16][CH3:35])=[O:20])[cH:8][cH:26][cH:5][cH:27][cH:9]1", "epd": [["Pi-/Sigma+", [34, 17], [34, 14]], ["Sigma-/Pi+", [14, 36], [36, 22]], ["Pi-/LP+", [22, 25], [25]]]}
